US08492378B2
N-[4-[5-[(3-fluorobenzyl)thio]-1,3,4-oxadiazol-2-yl]-2-pyridyl]-N′-(2-pyridylmethyl)urea
To a solution of 4-[5-[(3-fluorobenzyl)thio]-1,3,4-oxadiazol-2-yl]pyridin-2-amine (408 mg, 1.35 mmol) and triethylamine (0.468 mL) in tetrahydrofuran (20 mL) was added 2,2,2-trichloroethyl chloroformate (0.558 mL, 4.05 mmol) under ice-cooling, and the resulting mixture was stirred for 30 min. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-0/10), and the obtained compound was dissolved in N,N-dimethylformamide (15 mL). To this solution were added potassium carbonate (383 mg, 2.77 mmol), water (3 mL) and 2-(aminomethyl)pyridine (300 mg, 2.77 mmol) under ice-cooling, and the resulting mixture was stirred at room temperature for 30 min and at 50° C. for 30 min. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-0/10, ethyl acetate/methanol=9/1), and recrystallized from diethyl ether/methanol to give the title compound (313 mg, yield 57%) as colorless crystals.

reactant | 4-[5-[(3-fluorobenzyl)thio]-1,3,4-oxadiazol-2-yl]pyridin-2-amine | 1.35 mmol, 408 mg | FC=1C=C(CSC2=NN=C(O2)C2=CC(=NC=C2)N)C=CC1 | C14H11FN4OS
reactant | 2,2,2-trichloroethyl chloroformate | 4.05 mmol, 0.558 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | potassium carbonate | 2.77 mmol, 383 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(aminomethyl)pyridine | 2.77 mmol, 300 mg | NCC1=NC=CC=C1 | C6H8N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 3 mL | O | H2O
solvent | triethylamine | 0.468 mL | C(C)N(CC)CC | C6H15N
product | N-[4-[5-[(3-fluorobenzyl)thio]-1,3,4-oxadiazol-2-yl]-2-pyridyl]-N′-(2-pyridylmethyl)urea | 313 mg, yield 57% | FC=1C=C(CSC2=NN=C(O2)C2=CC(=NC=C2)NC(=O)NCC2=NC=CC=C2)C=CC1 | C21H17FN6O2S
